US05438052
Methyl 2-formyl-2-(3,4-dimethoxyphenyl)acetate (7.2 g) (30 mmol), 4.8 g (60 mmol) of formamidine hydrochloride and 7.74 g (60 mmol) of N-ethyldiisopropylamine (Hunig base) are stirred in 60 ml of ethanol for 55 hours at 50° C. and subsequently concentrated in a vacuum. The residue is washed several times with diethyl ether and then crystallized using ethanol/diethyl ether. The yellowish product is filtered off under suction, washed with ethanol/diethyl ether and dried in a high vacuum at room temperature. There are obtained 1.6 g of 5-(3,4-dimethoxyphenyl)-4(3H)-pyrimidinone of m.p. 205°-206° C.

reactant | Methyl 2-formyl-2-(3,4-dimethoxyphenyl)acetate | 30 mmol, 7.2 g | C(=O)C(C(=O)OC)C1=CC(=C(C=C1)OC)OC | C12H14O5
reactant | formamidine hydrochloride | 60 mmol, 4.8 g | Cl.C(=N)N
reactant | N-ethyldiisopropylamine | 60 mmol, 7.74 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-(3,4-dimethoxyphenyl)-4(3H)-pyrimidinone | 1.6 g | COC=1C=C(C=CC1OC)C=1C(NC=NC1)=O | C12H12N2O3
